US04330539
Sodium (0.37 g) was added to a stirred suspension of 17α-amino-16β-hydroxy-5α-androstan-3-one ethylene acetal (5.5 g) in ethyl formate (55 ml) and ethanol (27.5 ml) and the stirred mixture was heated under reflux for 11/2 h. After removal of the solvent, the residue was dissolved in chloroform and the solution was washed with water and dried (MgSO4). Evaporation of the solvent and crystallisation of the product from chloroform-ethyl acetate gave 17α-formamido-16β-hydroxy-5α-androstan-3-one ethylene acetal (4.5 g). A second recrystallisation furnished an analytical sample m.p. 277°-280° C., [α]DDMSO +58° (C 1.0).

reactant | Sodium | 0.37 g | [Na] | Na
reactant | 17α-amino-16β-hydroxy-5α-androstan-3-one ethylene acetal | 5.5 g | C1COC2(C[C@@H]3CC[C@H]4[C@@H]5C[C@@H]([C@H]([C@@]5(C)CC[C@@H]4[C@]3(CC2)C)N)O)O1 | C21H35NO3
reactant | ethyl formate | 55 ml | C(=O)OCC | C3H6O2
solvent | ethanol | 27.5 ml | C(C)O | C2H6O
product | 17α-formamido-16β-hydroxy-5α-androstan-3-one ethylene acetal | 4.5 g | C1COC2(C[C@@H]3CC[C@H]4[C@@H]5C[C@@H]([C@H]([C@@]5(C)CC[C@@H]4[C@]3(CC2)C)NC=O)O)O1 | C22H35NO4
